US09169259B2
Synthesis of N-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-yl)-6-(1,2,3,4-tetrahydroquinolin-7-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride
A mixture of 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine (300 mg, 0.91 mmol), 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinoline (354 mg, 1.37 mmol), Pd2(dba)3 (105 mg, 0.18 mmol), X-phos (172 mg, 0.36 mmol) and Na2CO3 (290 mg, 2.73 mmol) in dioxane (5 mL) and water (5 mL) was heated to 100° C. for 15 h then concentrated in vacuo and purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=1:1) to afford the desired product as its free base. 1 mL HCl was added to the residue and the mixture stirred for 5 min. The mixture was then concentrated to give N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)-6-(1,2,3,4-tetrahydroquinolin-7-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride (25 mg, 6%). 1H NMR (300 MHz, DMSO): δ 10.74 (s, 1H), 9.14 (s, 1H), 8.55 (s, 1H), 8.30 (s, 1H), 7.51 (t, 1H, J=7.8 Hz), 7.35-7.19 (m, 3H), 6.67 (d, 1H, J=7.8 Hz), 6.16 (d, 1H, J=8.1 Hz), 4.23-4.20 (m, 2H), 3.65-3.58 (m, 1H), 3.42-3.38 (m, 3H), 2.83-2.79 (m, 2H), 2.10-1.91 (m, 5H), 1.72-1.70 (m, 1H), 1.13 (d, 3H, J=6.0 Hz). LC-MS: [M+H]+, 426, tR=1.923 min, HPLC: 99.64% at 214 nm, 99.62% at 254 nm, tR=6.052 min.

reactant | 6-chloro-N-(6-(2-methylpyrrolidin-1-yl)pyridin-2-yl)imidazo[1,2-b]pyridazin-8-amine | 0.91 mmol, 300 mg | ClC=1C=C(C=2N(N1)C=CN2)NC2=NC(=CC=C2)N2C(CCC2)C | C16H17ClN6
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydroquinoline | 1.37 mmol, 354 mg | CC1(OB(OC1(C)C)C1=CC=C2CCCNC2=C1)C | C15H22BNO2
reactant | X-phos | 0.36 mmol, 172 mg | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | Na2CO3 | 2.73 mmol, 290 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | Pd2(dba)3 | 0.18 mmol, 105 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-(6-(2-Methylpyrrolidin-1-yl)pyridin-2-yl)-6-(1,2,3,4-tetrahydroquinolin-7-yl)imidazo[1,2-b]pyridazin-8-amine hydrochloride | Cl.CC1N(CCC1)C1=CC=CC(=N1)NC=1C=2N(N=C(C1)C1=CC=C3CCCNC3=C1)C=CN2 | InChI=1S/C25H27N7.ClH/c1-17-5-4-13-31(17)24-8-2-7-23(29-24)28-22-16-21(30-32-14-12-27-25(22)32)19-10-9-18-6-3-11-26-20(18)15-19;/h2,7-10,12,14-17,26H,3-6,11,13H2,1H3,(H,28,29);1H
